US07851490B2
3-Nitro-4-(3-thiazol-2-yl-phenylamino)benzoic acid
To a solution of 3-thiazol-2-yl-phenylamine (14.0 g, 79 mmol) in anhydrous NMP (50 ml) was added 4-fluoro-3-nitrobenzoic acid (15.0 g, 127 mmol). The resultant mixture was stirred at 90° C. over night. The cooled reaction cake was suspended in water and the solid was filtered off, washed with water and dried in the air to afford the desired product (22.5 g, 83%).

reactant | 3-thiazol-2-yl-phenylamine | 79 mmol, 14.0 g | S1C(=NC=C1)C=1C=C(C=CC1)N | C9H8N2S
reactant | 4-fluoro-3-nitrobenzoic acid | 127 mmol, 15.0 g | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
solvent | NMP | 50 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 3-Nitro-4-(3-thiazol-2-yl-phenylamino)benzoic acid | 22.5 g, 83% | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1NC1=CC(=CC=C1)C=1SC=CN1 | C16H11N3O4S
